Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L-sided neck swelling
 
Major Surgical or Invasive Procedure:
Biopsy L neck mass (___)
Biopsy L neck mass (___)

 
History of Present Illness:
___ year-old male, never smoker, with hx of latent TB s/p 
treatment p/w L neck swelling and was transferred to ___ for 
further evaluation.

He first noticed a small ? cyst in the left neck area while he
was outside shoveling snow. More recently, this has rapidly 
grown
significantly in size with progressively worsening neck 
swelling,
but without SOB, change in voice, inability handling oral
secretions, or suffocation. He denies frank pain involving the
area, but does note tenderness to palpation. He hasn't had 
fevers
that he knows of. He denies history of subacute weight loss or
other new symptoms. He has never smoked. At OSH, he underwent CT
neck which showed a cystic mass in the left neck. Prior to
transfer to ___, he received 10g IV decadron and 3g Unasyn. 

In the ED: 
VS: 
 >Yest ___ 72 130/82 16 100% RA 
 >Today ___ 70 119/70 18 100% RA 
PE: Left anterior neck with 3 cm indurated mass, no fluctuance,
tender, no overlying skin change. Able to range neck in all
directions without pain. Oropharynx within normal limits
Labs: WBC 11.5, BCx drawn
Imaging: CT from OSH was uploaded into EMR
Impression: cystic neck mass / abscess 
Interventions: Unasyn 3g x1, 1L NS
Consults: ENT recommended ___ drainage with FNA for cx/cytology,
IV unasyn, If improved 24h IV abx, DC w Augmentin and close
clinic ___  

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Latent TB s/p treatment (~ ___ years ago)
 
Social History:
___
Family History:
Father with scrofula, s/p treatment.
 
Physical Exam:
ADMISSION:
==========
VITALS: Temp: 97.6 PO BP: 126/79 R Lying HR: 88 RR: 16 O2 sat:
95% O2 delivery: RA Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, FROM with 
SKIN: moderately sized indurated mass on the left side without
fluctuance. + tenderness to palpation
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect

DISCHARGE:
===========
Temp: 97.7 PO 113 / 74 67 18 99 Ra  
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. OP clear. 
NECK: L neck mass less indurated/stable and improving, now
immobile, firm, ~2x2cm, non-tender without overlying erythema or
drainage
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
NODES: no significant cervical/clavicular/axillary/inguinal LAD
MSK: extremities warm without edema
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION:
==========
___ 09:45PM BLOOD WBC-11.5* RBC-4.53* Hgb-13.8 Hct-40.2 
MCV-89 MCH-30.5 MCHC-34.3 RDW-12.6 RDWSD-40.9 Plt ___
___ 09:45PM BLOOD Neuts-85.3* Lymphs-11.0* Monos-2.9* 
Eos-0.3* Baso-0.2 Im ___ AbsNeut-9.80* AbsLymp-1.26 
AbsMono-0.33 AbsEos-0.03* AbsBaso-0.02
___ 09:45PM BLOOD Glucose-130* UreaN-13 Creat-0.9 Na-140 
K-4.7 Cl-102 HCO3-23 AnGap-15
___ 06:47AM BLOOD ALT-79* AST-49* AlkPhos-81 TotBili-0.7
___ 06:13AM BLOOD calTIBC-265 Ferritn-438* TRF-204
___ 10:00PM BLOOD Lactate-1.2

HIV Ag/Ab: neg
HIV VL: neg
Q-gold: pending
EBV Ab: neg
CMV Ab: pending
RPR: neg

BCx (___): negative x 2

Core biopsy L neck mass (___): 2+ PMNs, no organisms; Cx 
pending
Path: pending
Cytology: pending

Core biopsy L neck mass (___): Gram stain with no PMNs or
oganisms; Cx no growth, AFB negative, Fungal cx pending
Path: 
Lymph node with reactive changes and adjacent areas of necrosis.
Note: Sections show a dense population of lymphoid cells admixed
with scattered plasma cells. The lymphocytes are small and 
mature
in appearance with dense chromatin and inconspicuous nucleoli,
and the plasma cells are small with fine chromatin and multiple
nucleoli. There are no large, atypical cells seen within the
section. Two areas of necrosis are seen adjacent to the lymphoid
population. By immunohistochemistry, CD3 and CD5 highlight
T-cells which represent the majority of the lymphocytes. CD20
highlights B-cells in groups and scattered throughout the core.
CD23 highlights intact follicular dendritic meshworks with
correspond to the CD20 positive groups of B-cells, most likely
representing primary follicles. CD10 and BCL1 are negative. 
CD138
highlights scattered plasma cells which are polytypic by kappa
and lambda stains. The proliferation fraction by KI67 staining 
is
lower than 10%.
Overall, the morphological and immunophenotypic features are
consistent with a reactive lymph node. However, given the
adjacent areas of necrosis and the clinical presentation of an
enlarging mass, a primary head and neck tumor should be 
excluded.

STUDIES:
========
Core biopsy L neck mass (___):
Using ultrasound guidance, a 5cm coaxial device was introduced
into the mass and  4 20mm cores were obtained from the mass 
using
18 gauge needles. The first two samples were submitted to the
pathology on site team. The third sample was sent for
microbiology in a sterile dry container. The fourth sample was
put into a container for flow cytometry. 
IMPRESSION:  
Technically successful repeat core biopsy  of the LEFT NECK 
MASS.
No periprocedural complications. Pathology and Microbiology are
pending 

Attempted FNA L neck mass (___):
The site was prepped and draped in the usual sterile fashion.  
10
cc of 1%  lidocaine were administered to the subcutaneous and
deep tissues for local anesthetic effect. Under continuous
ultrasound guidance, a 25 gauge needle was advanced into the
collection, for attempt at fine needle aspiration. However, no
fluid could be aspirated.  Therefore, the decision was made to 
proceed with core biopsy of the solid/cystic collection.  An 18
gauge core biopsy device with a 22 mm throw was used to obtain 4
core biopsy specimens, which were sent for pathology and
microbiology. 
FINDINGS:  
Left submandibular mixed echogenicity collection measuring 3.7 x
3.8 x 2.8 cm. This was targeted for ultrasound-guided core
biopsy.  
IMPRESSION:  
Successful ultrasound-guided core biopsy of the left
submandibular mixed solid/cystic collection, with sample sent 
for
microbiology and pathology evaluation. 

Neck CT ___, ___:
Corresponding to the palpable abnormality is a hypointense rim
enhancing structure 32 mm x 43 mm x 48 mm (AP by TRV by cc)
anterior medial to the left sternocleidomastoid muscle, with
diffuse surrounding inflammatory changes and multiple 
surrounding
enhancing lymph nodes measuring up to 5-6 mm in size.  This is
most consistent either with infected second branchial cleft cyst
versus abscess. The left jugular vein abuts the posterior medial
aspect of the structure and is being compressed. Left
submandibular gland being displaced anteroinferiorly.
Skull base:  The skull base appears normal.  The visualized 
brain
and extra-axial spaces appear unremarkable.
Orbits:  The visualized inferior portions of the orbits appear
normal.
Paranasal sinuses:  The visualized portions of the paranasal
sinuses are clear.
Salivary Glands:  The parotid, submandibular and sublingual
glands are normal and symmetric.
Nasopharynx:  The nasopharynx appears normal without evidence of
a mass. Suprahyoid neck:  The oropharynx, oral cavity,
parapharyngeal and retropharyngeal spaces appear normal
Infrahyoid neck:  The hypopharynx, larynx, and subglottic 
trachea
appear normal
Thyroid:  The thyroid gland appears normal.
Thoracic inlet:  The thoracic inlet appears normal
Lymph nodes:  There are no enlarged lymph nodes by CT size
criteria.
Vascular structures:  No significant abnormality.
Lung apices:  Unremarkable
Bones:  The bones of the cervical spine appear unremarkable.
IMPRESSION:
Infected left branchial cleft cyst versus abscess, with
surrounding reactive lymph nodes and left internal jugular vein
compression.

DISCHARGE:
==========
___ 07:57AM BLOOD WBC-8.9 RBC-4.71 Hgb-14.1 Hct-41.6 MCV-88 
MCH-29.9 MCHC-33.9 RDW-11.9 RDWSD-38.9 Plt ___
___ 09:20AM BLOOD Glucose-106* UreaN-14 Creat-1.0 Na-142 
K-4.5 Cl-101 HCO3-28 AnGap-13

AFB neg x3 on concentrated smear
NAAT test pending
 
Brief Hospital Course:
___ year-old male with no significant past medical history who 
presents with L-sided neck mass with CT initially concerning for 
neck abscess, treated with Unasyn and s/p attempted FNA ___ 
consistent with necrotic lymph node and core biopsy ___.
                                       
# L-sided neck lesion:
# Leukocytosis:
Patient p/w 4 weeks of neck swelling with 2 weeks of pain. 
Received decadron prior to transfer, but no concern for airway 
compromise. Imaging initially c/f abscess vs superinfected 
brachial cleft cyst vs malignancy. Seen by ENT and underwent 
attempted ___ FNA on ___. No fluid could be aspirated, 
and the procedure was converted to a successful core biopsy. 
Gram stain, bacterial culture, and AFB preliminarily negative; 
fungal culture pending. Pathology from that specimen is 
consistent with a necrotic lymph node, making abscess less 
likely. No evidence of lymphoma seen. Ddx includes head/neck 
malignancy (e.g SCC) in this Asian male, but tissue was all 
lymphoid and could not be stained for carcinoma. He therefore 
underwent a repeat core biopsy on ___, sent for micro, path, 
and cytology. Infectious considerations include TB (particularly 
given his recently-reported hx of latent TB and father with 
remote scrofula, ___ travel, and coughing), less likely 
histoplasma or viral etiologies. HIV negative (including viral 
load). ID was consulted and recommended isolation and TB rule 
out. He had 3 __neg __ AFBs, and CXR showed no e/o pulmonary TB. 
Stains on the biopsy specimens for AFB, fungi, and EBV were 
pending at the time of discharge, as were __infectious studies 
___. He will f/u with ___ ENT on ___, at which time the 
results of his second biopsy should be available. If 
inconclusive, he may warrant an excisional biopsy to exonerate 
head/neck malignancy. He was treated with Unasyn (___) with 
resolution of his pain and leukocytosis and was transitioned to 
Augmentin to complete a course through ___.
- NAT test from ___ pending at discharge for TB.  He was 
instructed to wear a surgical mask and stay homebound until this 
returns, and to avoid public spaces and work.  His ___ month old 
daughter will not stay with him until this is negative
- pending tests as above
- ENT and PCP follow up arranged.
- bx pending

# Normocytic anemia:
# Hematochezia:
Hgb 13.8 on admission, dropped to 12.9 on ___, normalized 
without intervention. Likely lower GI bleed in setting of 
patient-reported painless hematochezia over the last year. No 
external hemorrhoids on exam. Ddx includes internal hemorrhoids, 
diverticulosis, AVM, malignancy. Low suspicion for active 
bleeding. He will require an outpatient colonoscopy.

# Transaminitis:
Unclear etiology and no recent baseline.  Improved. Would 
benefit from repeat LFTs as outpatient.

** TRANSITIONAL **
[ ] ENT f/u arranged for ___ (___)
[ ] repeat LFTs as outpatient
[ ] outpatient colonoscopy
[ ] f/u several pending tests as noted above
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 5 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet by mouth 
twice a day Disp #*10 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
L neck mass

Secondary:
Hematochezia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for a mass in your neck. You 
underwent two biopsies of the mass and the results on pending on 
discharge.  There are other tests pending as well and close 
follow up with your PCP and ENT as scheduled is recommended.  
you will complete a course of antibiotics.

In addition, you were found to have blood in your stool. You 
will need a colonoscopy, which your primary care doctor can 
arrange.

Finally, given your history we ruled you out for Tuberculosis.  
The sputum smears were negative but we are awaiting DNA results 
from the Dept of Public Health.  As we discussed, please wear a 
surgical mask at home until these results returned.  Please stay 
home as much as possible, we recommend against working.  Please 
keep your child away until these results return.  Please avoid 
public spaces and old or chronically sick people.

Best wishes,
___ Medicine
 
Followup Instructions:
___